US04667017
According to the process of H. Watanabe et al, Chemical Pharmaceutical Bulletin, vol. 22, p. 1889 (1974), 4 g of Gln(OMe) is reacted with 4 g of β,β,β-trichloroethyloxycarbonylhydrazine (hereinafter referred to as "TrocNHNH2 ") to obtain 3 g of GlnNHNH-Troc.

reactant | Gln(OMe) | 4 g | N[C@@H](CCC(NOC)=O)C(=O)O | C6H12N2O4
reactant | β,β,β-trichloroethyloxycarbonylhydrazine | 4 g | ClC(COC(=O)NN)(Cl)Cl | C3H5Cl3N2O2
reactant | TrocNHNH2 | C(=O)(OCC(Cl)(Cl)Cl)NN | C3H5Cl3N2O2
product | GlnNHNH-Troc | 3 g | N[C@@H](CCC(N)=O)C(=O)NNC(=O)OCC(Cl)(Cl)Cl | C8H13Cl3N4O4
